US06348474B1
3-(2,4-Dichlorobenzoyl)-5-(methoxycarbonyl)-2-methylbenzo[b]thiophene
Aluminum chloride (1.24 g, 9.3 mmol) was dispersed in methylene chloride (10 ml), and 2,4-dichlorobenzoyl chloride (0.97 g, 4.7 mmol) and then 5-(methoxycarbonyl)-2-methylbenzo[b]thiophene(0.8 g, 3.9 mml) were added thereto. The mixture was stirred at room temperature for 4 hr. The reaction mixture was poured into ice water and ethyl acetate was added. The mixture was extracted. The organic layer was washed twice with a saturated aqueous solution of sodium hydrogencarbonate and once with brine, and dried over anhydrous sodium sulfate. The desiccant was filtered off, and the filtrate was concentrated under reduced pressure to give the objective compound (1.5 g, quantitative) as pale yellow crystals.

reactant | Aluminum chloride | 9.3 mmol, 1.24 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,4-dichlorobenzoyl chloride | 4.7 mmol, 0.97 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | 5-(methoxycarbonyl)-2-methylbenzo[b]thiophene | 0.8 g | COC(=O)C1=CC2=C(SC(=C2)C)C=C1 | C11H10O2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(2,4-Dichlorobenzoyl)-5-(methoxycarbonyl)-2-methylbenzo[b]thiophene | ClC1=C(C(=O)C=2C3=C(SC2C)C=CC(=C3)C(=O)OC)C=CC(=C1)Cl | C18H12Cl2O3S
